US07666888B2
3-(1-{[5-(2-Chlorophenyl)isoxazol-4-yl]carbonyl}pyrrolidin-3-yl)pyridine
The title compound was prepared from 5-(2-chlorophenyl)isoxazole-4-carboxylic acid (11.2 mg, 0.050 mmol) and 3-pyrrolidin-3-ylpyridine (8.9 mg, 0.060 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (8.0 mg). Calcd for C19H16ClN3O2: 353.0931, found 353.0932.

reactant | 5-(2-chlorophenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 11.2 mg | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)O | C10H6ClNO3
reactant | 3-pyrrolidin-3-ylpyridine | 0.060 mmol, 8.9 mg | N1CC(CC1)C=1C=NC=CC1 | C9H12N2
product | 3-(1-{[5-(2-Chlorophenyl)isoxazol-4-yl]carbonyl}pyrrolidin-3-yl)pyridine | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)N1CC(CC1)C=1C=NC=CC1 | C19H16ClN3O2
